US07820815B2
d. 1-[(4-Methylquinazolin-2-yl)-methyl]-3-methyl-7-(2-butin-1-yl)-8-(3-(R)-aminopiperidin-1-yl)-xanthine
1800 kg (3 mol) of 1-[(4-methylquinazolin-2-yl)methyl]-3-methyl-7-(2-butin-1-yl)-8-(3-(R)-phthalimidopiperidin-1-yl)-xanthine are heated to 80-85° C. in 18 litres of toluene. Subsequently, 1.815 litres (30 mol) of ethanolamine are added to the suspension at 75-80° C. To complete the reaction, the mixture is stirred at 80-85° C. for 2 hours, in the course of which the solids go into solution. Subsequently, the phases are separated. The ethanolamine phase is washed twice with warm toluene (4 litres each time). The combined toluene phases are washed twice with 8 litres each time of water at 75-80° C. From the toluene phase, 22 litres of toluene are distilled off under reduced pressure. 4 litres of tert.-butyl methyl ether are metered at 40-50° C. to the resulting suspension and subsequently cooled to 0-5° C. The product is isolated by filtration, washed with tert.-butyl methyl ether and suction-dried. The moist crude substance is subsequently heated to reflux with 5 times the amount of absolute ethanol and the hot solution is clarified by filtration through activated carbon. After the filtrate has been cooled to 20° C. and crystallization has set in, it is diluted to double the volume with tert.-butyl methyl ether. The suspension is cooled to 2° C., stirred for a further 2 hours, filtered with suction and dried at 45° C. in a vacuum drying cabinet.

reactant | 1-[(4-methylquinazolin-2-yl)methyl]-3-methyl-7-(2-butin-1-yl)-8-(3-(R)-phthalimidopiperidin-1-yl)-xanthine | 3 mol, 1800 kg | CC1=NC(=NC2=CC=CC=C12)CN1C(=O)N(C=2N=C(N(C2C1=O)CC#CC)N1C[C@@H](CCC1)N1C(C=2C(C1=O)=CC=CC2)=O)C | C33H30N8O4
reactant | ethanolamine | 30 mol, 1.815 litres | C(O)CN | C2H7NO
solvent | toluene | 18 litres | C1(=CC=CC=C1)C | C7H8
product | 1-[(4-Methylquinazolin-2-yl)-methyl]-3-methyl-7-(2-butin-1-yl)-8-(3-(R)-aminopiperidin-1-yl)-xanthine | CC1=NC(=NC2=CC=CC=C12)CN1C(=O)N(C=2N=C(N(C2C1=O)CC#CC)N1C[C@@H](CCC1)N)C | C25H28N8O2
